US03952017
To a 250 ml. 3-neck vessel, equipped with a stirrer, a dropping funnel and an ammonia coolant, are added 75 ml. of liquid ammonia, and it is treated by adding a sodium chip to obtain a stable blue color. A solution containing 22.2 g. of 1-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one in 50 ml. of dry toluene is added dropwise with stirring. Thereafter, 4.6 g. of sodium are added piece by piece over a 30-minute period. The mixture is stirred for an additional 30 minutes and a solution containing 11.4 g. of freshly distilled 1-chloro-3-aminopropane in 40 ml. of dry toluene is added. The ammonia coolant is replaced by a water-cooler and the mixture is stirred overnight. The following morning, the mixture is cautiously decomposed with 50 ml. of water, whereby the 1-methyl-10,11-dihydro-5-(3-aminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene partially crystallizes. Its melting point, after recrystallization from benzene/petroleum ether, is 155°-156°C. The crystals are removed by filtration and together with the separated toluene layer are treated with 13 g. of freshly distilled benzaldehyde. The mixture is heated at 80°C. under reduced pressure, so that the toluene and the residual water distil over. After recrystallization of the residue from ethanol, there is obtained 1-methyl-10,11-dihydro-5-(3-benzylideneaminopropyl)-5-hydroxy-5H-dibenzo [a,d]cycloheptene as colorless crystals having a melting point of 130°-131°C.

reactant | ammonia | N | H3N
reactant | sodium | [Na] | Na
reactant | 1-methyl-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=O | C16H14O
reactant | 1-chloro-3-aminopropane | ClCCCN | C3H8ClN
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-10,11-dihydro-5-(3-benzylideneaminopropyl)-5-hydroxy-5H-dibenzo [a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)(O)CCCN=CC3=CC=CC=C3 | C26H27NO
